US06953790B2
N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(8-oxo-8,9-dihydro-7H-purin-7-yl)piperidine-1-carboxamide
Triethylamine (0.030 mL, 0.215 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)azepan-2-one (80 mg, 0.248 mmol) and 4-nitrophenyl chloroformate (44 mg, 0.218 mmol) in tetrahydrofuran (3 mL) at 0° C. After 0.5 h, 7-piperidin-4-yl-7,9-dihydro-8H-purin-8-one hydrochloride (73 mg, 0.248 mmol) and triethylamine (0.120 mL, 0.860 mmol) were added and the mixture allowed to warm to ambient temperature. After 18 h, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (114 mg). MS 567.2123 (M+1).

reactant | Triethylamine | 0.215 mmol, 0.030 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(2,2,2-trifluoroethyl)azepan-2-one | 0.248 mmol, 80 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC(F)(F)F)=O | C14H15F5N2O
reactant | 4-nitrophenyl chloroformate | 0.218 mmol, 44 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 7-piperidin-4-yl-7,9-dihydro-8H-purin-8-one hydrochloride | 0.248 mmol, 73 mg | Cl.N1CCC(CC1)N1C(NC2=NC=NC=C12)=O
reactant | triethylamine | 0.860 mmol, 0.120 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(2,2,2-trifluoroethyl)azepan-3-yl]-4-(8-oxo-8,9-dihydro-7H-purin-7-yl)piperidine-1-carboxamide | 114 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC(F)(F)F)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=NC=C12)=O | C25H26F5N7O3
